US07981903B2
To a solution of 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (200 mg, 0.305 mmol) in THF (5 mL) was added propylamine (0.125 mL, 1.52 mmol). The resulting mixture was let stir at rt for 3 h at which time it was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure. The residue was attempted to be purified via chromatography on SiO2 and afforded a solid containing 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-propylbenzamide. This crude material was dissolved in 1,4-dioxane (5 mL) and transferred to a 20 ml microwave vessel. A solution of 2M NaOH (5 ml) was added and reaction heated in microwave at 120° C. for 8 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a solution of 2M NaOH, a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a brown solid which was purified via chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-propylbenzamide (68 mg, 0.121 mmol) as a beige solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.86 (t, J=7.38 Hz, 3 H), 1.44-1.57 (m, 2H), 2.26 (s, 6 H), 3.06-3.28 (m, 6 H), 3.18 (s, 2 H), 3.77 (s, 3 H), 4.18 (t, J=8.34 Hz, 2 H), 6.25 (dd, J=3.25, 1.79 Hz, 1 H), 6.84-7.00 (m, 3 H), 7.25-7.38 (m, 1 H), 7.57 (s, 1 H), 8.32 (d, J=8.25 Hz, 1 H), 8.55-8.67 (m, 2 H), 9.86 (s, 1 H), 11.26 (s, 1 H). (ESIMS (M+H)+=561)

reactant | 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.305 mmol, 200 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C33H30FN7O5S
reactant | propylamine | 1.52 mmol, 0.125 mL | C(CC)N | C3H9N
reactant | 2-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-propylbenzamide | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NCCC)C(=CC=C2)F)OC)C | C36H39FN8O5S
reactant | NaOH | 2M, 5 ml | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluoro-N-propylbenzamide | 0.121 mmol, 68 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=C(C(=O)NCCC)C(=CC=C2)F)OC)C | C29H33FN8O3
